US04880806
To a solution of ethyl 1-cyclopropyl-7-(4-methyl-1-piperazinyl)-6-fluoro-8-acetoxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (142 mg) in ethanol (10 ml) is added 2N aqueous potassium carbonate (1 ml), and the mixture is stirred at room temperature for 2.5 hours. The reaction mixture is extracted with chloroform. The extract is dried over magnesium sulfate and the solvent is distilled off. The residue is crystallized by adding thereto diethyl ether to give ethyl 1-cyclopropyl-7-(4-methyl-1-piperazinyl)-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (101 mg), as pale yellow powder, m.p. 216°-218° C.

reactant | ethyl 1-cyclopropyl-7-(4-methyl-1-piperazinyl)-6-fluoro-8-acetoxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 142 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)COC(C)=O)N1CCN(CC1)C)F)=O)C(=O)OCC | C23H28FN3O5
reactant | potassium carbonate | 2N, 1 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 1-cyclopropyl-7-(4-methyl-1-piperazinyl)-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 101 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)CO)N1CCN(CC1)C)F)=O)C(=O)OCC | C21H26FN3O4
